US07816401B2
(1) Synthesis of (4R)-4-benzyl-3-propionyl-1,3-oxazolidin-2-one (P26)
1.57M n-butyllithium hexane solution (96 ml, 150 mmol) was slowly added dropwise to a THF (400 ml) solution of (R)-4-benzyl-2-oxazolidinone (25.36 g, 143 mmol) at −78° C. under stirring. Subsequently propionyl chloride (13.7 ml, 157 mmol) was added at once and the reaction solution was stirred at the same temperature for 30 minutes. After the reaction solution was warmed to room temperature for 30 minutes, it was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; heptane:ethyl acetate=5:1) to obtain the title compound (36.58 g) as a white solid.

reactant | n-butyllithium hexane | 150 mmol, 1.57M, 96 ml | CCCCCC.C(CCC)[Li]
reactant | THF | 400 ml | C1CCOC1 | C4H8O
reactant | (R)-4-benzyl-2-oxazolidinone | 143 mmol, 25.36 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | propionyl chloride | 157 mmol, 13.7 ml | C(CC)(=O)Cl | C3H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R)-4-benzyl-3-propionyl-1,3-oxazolidin-2-one | 36.58 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
